US04003936
2-Acetyl-1,3-cyclopentanedione (3.03 g.) was treated with 4-hydroxy-3-methoxybenzaldehyde (5.05 g.) in 50 ml. of dimethylsulfoxide at 80° C for 13 minutes in the presence of 4 ml. of morpholine. After cooling, 80 ml. of 1 N hydrochloric acid was added to the reaction mixture, depositing a crystalline product. The solid was collected by filtration, and washed with water and ethanol successively, and it was then dried. The Claiseu-Schmidt condensation product, 2-(4-hydroxy-3-methoxycinnamoyl)-1,3-cyclopentanedione, (1.3 g.) was obtained in an orange crystalline form, which showed mp. 274°- 275° C after recrystallization from dioxane.

reactant | 2-Acetyl-1,3-cyclopentanedione | 3.03 g | C(C)(=O)C1C(CCC1=O)=O | C7H8O3
reactant | 4-hydroxy-3-methoxybenzaldehyde | 5.05 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-(4-hydroxy-3-methoxycinnamoyl)-1,3-cyclopentanedione | OC1=C(C=C(C=CC(=O)C2C(CCC2=O)=O)C=C1)OC | C15H14O5
